US08067621B2
A solution of allyl alcohol isomer A from Step 2 (7.11 g, 16.65 mmol) and oxone (30.75 g, 50.0 mmol) in acetone (100 mL) and water (25 mL) was stirred at RT overnight then filtered, diluted with water and AcOEt, extracted with AcOEt, dried and concentrated. The residue is purified was purified by flash-chromatography over silica gel (eluted with Hexanes/AcOEt 99:1 to 60:40) to provide 5.50 g (72%) of allylsulfone.

reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | oxone | 50.0 mmol, 30.75 g | OOS(=O)[O-].[K+]
reactant | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | allylsulfone | 5.50 g, 72% | C(C=C)S(=O)(=O)CC=C | C6H10O2S
